US06870057B1
Bifonazole has also been prepared by benzoylation of imidazole with PhCOCl, yielding 74.7% of 1-benzoylimidazole which is subject to react with Gringnard's reactant 4-PhC6H4MgBr followed by a tosylation and subsequent reduction with sodium cyanoborohydride in hexamethylphosphoramide, to yield 68.2% Bifonazole (Es. Patent 539,345).

reactant | 4-PhC6H4MgBr | C1(=CC=CC=C1)C1=CC=C(C=C1)[Mg]Br
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Bifonazole | 68.2% | C=1C=CC(=CC1)C=2C=CC(=CC2)C(C=3C=CC=CC3)N4C=CN=C4 | C22H18N2
